US07105567B2
To a solution of benzaldehyde (10 mL) in toluene (200 mL) were added, under ice-cooling, 4-octylaniline (22.5 mL) and molecular sieves 4A (20 g), and the mixture was stirred overnight at room temperature. The molecular sieves 4A was filtered off from the reaction mixture and the obtained filtrate was concentrated under reduced pressure. The residue was dissolved in methanol (200 mL) and sodium borohydride (2.3 g) was added under ice-cooling. The mixture was stirred at room temperature for 5 hr. Methanol was evaporated and water was added to the residue. The mixture was extracted with chloroform and the organic layer was washed with saturated brine, dried and concentrated under reduced pressure to give benzyl(4-octylphenyl)amine (29 g).

reactant | benzaldehyde | 10 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4-octylaniline | 22.5 mL | C(CCCCCCC)C1=CC=C(N)C=C1 | C14H23N
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | benzyl(4-octylphenyl)amine | 29 g | C(C1=CC=CC=C1)NC1=CC=C(C=C1)CCCCCCCC | C21H29N
